US08012956B2
Methyl 3-bromo-4-(aminocarbonyl)benzoate (0.54 mmol) was dissolved in methanol (1 mL) and was treated with 1M aqueous sodium hydroxide (1 mL) at 45° C. for 3 h. The reaction mixture was cooled to room temperature and concentrated to afford an aqueous residue that was acidified with 1N aqueous hydrochloric acid to pH ˜3. The precipitate was collected by filtration, washed with water, and dried to afford 3-bromo-4-(aminocarbonyl)benzoic acid (69.4 mg, 0.28 mmol, 53% overall). 1H NMR (400 MHz, d6-DMSO): 13.47 (br s, 1H), 8.08 (dd, 1H), 8.00 (br s, 1H), 7.94 (dd, 1H), 7.73 (br s, 1H), 7.51 (d, 1H); MS (EI) for C8H6BrNO3: 242, 244(M−H).

reactant | Methyl 3-bromo-4-(aminocarbonyl)benzoate | 0.54 mmol | BrC=1C=C(C(=O)OC)C=CC1C(=O)N | C9H8BrNO3
reactant | sodium hydroxide | 1M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 3-bromo-4-(aminocarbonyl)benzoic acid | 0.28 mmol, 69.4 mg, 53% | BrC=1C=C(C(=O)O)C=CC1C(=O)N | C8H6BrNO3
